US08084469B2
3-Methyl 1-(4-nitrophenyl) 5-[4-(trifluoromethoxy)phenyl]piperidine-1,3-dicarboxylate [racemic cis/trans isomer mixture]
At 0° C., 5.32 g (26.4 mmol) of 4-nitrophenyl chloroformate were added slowly to 8.0 g (26.4 mmol) of methyl 5-(4-(trifluoromethoxy)phenyl)piperidine-3-carboxylate and 5.34 g (26.3 mmol) of triethylamine in 666 ml of dichloromethane. The mixture was stirred at RT for 2 h. For workup, the reaction mixture was washed first with saturated aqueous sodium hydrogencarbonate solution, then with water. The organic phase was dried over sodium sulphate and concentrated under reduced pressure. The residue was purified by means of flash chromatography on silica gel (eluent: cyclohexane/ethyl acetate 1:2->1:1). Yield: 7.32 g (54% of theory)

reactant | 4-nitrophenyl chloroformate | 26.4 mmol, 5.32 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | methyl 5-(4-(trifluoromethoxy)phenyl)piperidine-3-carboxylate | 26.4 mmol, 8.0 g | FC(OC1=CC=C(C=C1)C1CC(CNC1)C(=O)OC)(F)F | C14H16F3NO3
reactant | triethylamine | 26.3 mmol, 5.34 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 666 ml | ClCCl | CH2Cl2
product | 3-Methyl 1-(4-nitrophenyl) 5-[4-(trifluoromethoxy)phenyl]piperidine-1,3-dicarboxylate | FC(OC1=CC=C(C=C1)C1CC(CN(C1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC)(F)F | C21H19F3N2O7
